US06156700
Preparation of N-{{{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetyl}-p-toluenesulfonamide
A mixture of 1,1'-carbonyldiimidazole (0.198 g, 1.22 mmol) and {{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetic acid (0.300 g, 0.610 mmol) in tetrahydrofuran is stirred overnight at room temperature, refluxed for 30 minutes, cooled to room temperature, treated sequentially with a solution of p-toluenesulfonamide (0.209 g, 1.22 mmol) in tetrahydrofuran and a solution of 1,8-diazabicyclo[5.4.0]undec-7-ene (0.204 g, 1.34 mmol) in tetrahydrofuran, stirred at room temperature for three hours, and poured into 10% hydrochloric acid. The resulting aqueous mixture is filtered to obtain a solid. The solid is recrystallized from an acetonitrile/water solution to give the title product as an off-white solid (0.200 g, mp 140-144° C.).

reactant | 1,1'-carbonyldiimidazole | 1.22 mmol, 0.198 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | {{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetic acid | 0.610 mmol, 0.300 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OCC(=O)O)C)C1)=O | C22H16F3N3O5S
reactant | p-toluenesulfonamide | 1.22 mmol, 0.209 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.34 mmol, 0.204 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{{{2-{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}acetyl}-p-toluenesulfonamide | 0.200 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OCC(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C)C1)=O | C29H23F3N4O6S2
